US06593330B2
Step 1: 2-{[3-(Benzyloxy)benzyl]oxy}-6-chloropyrazine
The title compound was prepared according to the procedure of example 50, step 1, starting from 3-benzyloxybenzyl alcohol (3.46 g, 16.2 mmol), K-t-BuO (1.69 g, 15.1 mmol) and 2,6-dichloropyrazine (1.97 g, 13.2 mmol). The yield of the title compound was 2.64 g (61%) and was obtained as a semisolid. Anal. (C18H15ClN2O2) C, H, N.

reactant | 3-benzyloxybenzyl alcohol | 16.2 mmol, 3.46 g | C(C1=CC=CC=C1)OC=1C=C(CO)C=CC1 | C14H14O2
reactant | 2,6-dichloropyrazine | 13.2 mmol, 1.97 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 2-{[3-(Benzyloxy)benzyl]oxy}-6-chloropyrazine | C(C1=CC=CC=C1)OC=1C=C(COC2=NC(=CN=C2)Cl)C=CC1 | C18H15ClN2O2
